US03954994
To a solution of 4.15 g. (0.030 moles) of potassium carbonate in 50 ml. of water is successively added 100 ml. of ethanol, 5.05 g. (0.030 moles) of 5-methyl-2-mercaptobenzoic acid, and 3.8 g. (0.030 moles) of benzyl chloride. After the evolution of carbon dioxide ceases (about 10 minutes), the mixture is refluxed on a steam bath for one hour. The mixture is cooled, and the major portion of the solvent is evaporated under reduced pressure. The cloudy, white liquid residue is diluted to a volume of about 600 ml. with water. The mixture is filtered, cooled, and acidified with 6 N hydrochloric acid. The white precipitate which forms is separated, filtered, and triturated with about 400 ml. of water. Filtration and drying under high vacuum provides 6.9 g. (89 percent yield) of 2-benzylthio-5-methylbenzoic acid, m.p. 169°-171°C. sint. 167°C.

reactant | potassium carbonate | 0.030 moles | C([O-])([O-])=O.[K+].[K+]
reactant | 5-methyl-2-mercaptobenzoic acid | 0.030 moles | CC=1C=CC(=C(C(=O)O)C1)S | C8H8O2S
reactant | benzyl chloride | 0.030 moles | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-benzylthio-5-methylbenzoic acid | 89 percent yield | C(C1=CC=CC=C1)SC1=C(C(=O)O)C=C(C=C1)C | C15H14O2S
